US07312359B2
C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride (0.5 gms, 1.41 mmole) and triethyl amine (0.2 ml, 1.55 mmole) in 25 ml dichloroethane were stirred together for three minutes, and then the solution cooled in an ice-bath. A 50% solution of ethylgloxylate (0.32 ml, 1.55 mmole) in toluene was added, and then followed by sodiumtriacetoxyborohydride (0.7 gms, 3.08 mmle). The reaction was stirred for four hours and then was quenched by addition of 2% sodium carbonate solution. The mixture was extracted twice with ethyl acetate, and the combine organic extracts were washed with saturated NaCl solution, dried over magnesium sulfate, filtered, and stripped to an oil under reduced pressure to give {[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-amino}-acetic acid ethyl ester. The HCl salt was crystallized from diethyl ether—methanol. Yield: 0.42 gms, M+H=406.

reactant | C-[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-yl]-methylamine hydrochloride | 1.41 mmole, 0.5 gms | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CN
reactant | triethyl amine | 1.55 mmole, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodiumtriacetoxyborohydride | 0.7 gms | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-amino}-acetic acid ethyl ester | C(C)OC(CNCC1CCCC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)=O | C21H24FNO4S
